US05532248
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(2'"-(3""-methoxyphenyl)-2'"-hydroxyethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricylo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2'"-(3""-methyoxyphenyl)-2'"-hydroxyethyloxy-)3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetrone (29 mg in 0.6 mL tetrahydrofuran contained in a polypropylene vial) was added 80 μL of a solution of hydrogen fluoride-pyridine complex (40% in (2:1) tetrahydrofuran:pyridine) and the mixture stirred at room temperature. After 48 hours, the reaction was quenched by the careful addition of saturated sodium bicarbonate and extracted with ethyl acetate. The combined organics were dried by passage through a magnesium sulfate plug, concentrated in vacuo and purified by flash chromatography (ethyl acetate:hexane (1:1)+1% methanol) to give the title compound (9.5 mg).

reactant | 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2'"-(3""-methyoxyphenyl)-2'"-hydroxyethyloxy-)3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetrone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC(O)C2=CC(=CC=C2)OC)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C58H93NO14Si
reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | hydrogen fluoride-pyridine | N1=CC=CC=C1.F
solvent | tetrahydrofuran | 0.6 mL | O1CCCC1 | C4H8O
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(2'"-(3""-methoxyphenyl)-2'"-hydroxyethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricylo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 9.5 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC(O)C2=CC(=CC=C2)OC)OC)C)C)O)=O | C52H79NO14
